US05071871
A solution of 16,1 g of 3-acetyl-4-hydroxybenzonitrile in 200 ml of toluene, 21 ml of diethylketone and 10 ml of pyrrolidin is refluxed for 31/2 hours in a Dean-Stark apparatus. The reaction solution cooled to room temperature is made alkaline with a 2N aq. sodium hydroxide solution and extracted with dichloroethane. The combined organic phases are washed with sodium hydroxidesolution and water, dried over sodiumsulfate and concentrated. The obtained residue is chromatographed on silica gel/dichloromethane. Recristallisation of the eluate from ether/hexane yields 2,2-diethyl-3,4-dihydro-4-oxo-2H-1-benzopyran-6-carbonitrile having a m.p. of 71°-72° C.

reactant | 3-acetyl-4-hydroxybenzonitrile | 16,1 g | C(C)(=O)C=1C=C(C#N)C=CC1O | C9H7NO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethylketone | 21 ml | C(C)C(=O)CC | C5H10O
solvent | pyrrolidin | 10 ml | N1CCCC1 | C4H9N
product | 2,2-diethyl-3,4-dihydro-4-oxo-2H-1-benzopyran-6-carbonitrile | C(C)C1(OC2=C(C(C1)=O)C=C(C=C2)C#N)CC | C14H15NO2
